US07595325B2
N-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-6-methoxy-pyridin-2-yl]-2-fluoro-benzenesulfonamide
2-Fluoro-benzenesulfonyl chloride (0.05 mL, 0.37 mmol) was added to a solution of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methoxy-pyridin-4-yl)-methanone (100 mg, 0.31 mmol) in pyridine (2 mL) and stirred for 2 h at room temperature. The reaction mixture was quenched with H2O (100 mL) and extracted with hot EtOAC/MeOH (95:5 3×100 mL). The combined organic extracts were cooled to room temperature and the solid was filtered and dried to provide the title compound as a white solid (69 mg, 47%). MS: 485.3 (MH+); HPLC Rf: 2.7 min. (HPLC method 2); HPLC purity: 100%.

reactant | 2-Fluoro-benzenesulfonyl chloride | 0.37 mmol, 0.05 mL | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methoxy-pyridin-4-yl)-methanone | 0.31 mmol, 100 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)OC)N)C(C)C | C16H18N6O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-6-methoxy-pyridin-2-yl]-2-fluoro-benzenesulfonamide | 69 mg, 47% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)OC)NS(=O)(=O)C2=C(C=CC=C2)F)C(C)C | C22H21FN6O4S
